US06417212B1
To 2-{4-[2-(2-biphenyl-3-yl-5-methyl-thiazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester (470 mg, 0.94 mmol) in tetrahydrofuran (10 mL) and methanol (2 mL) was added 2 mL of a 5N NaOH solution. After 24 h, the solution was concentrated in vacuo. The residue was partioned between ethyl acetate and 1N hydrochloric acid. The ethyl acetate layer was dried over magnesium sulfate, filtered and concentrated to afford 385 mg (87% yield) of 2-{4-[2-(2-biphenyl-3-yl-5-methyl-thiazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid as a white solid. 1H NMR (400MHz, CDCl3) δ8.04 (s, 1H), 7.78 (d, 1H), 7.61-7.55 (m, 3H), 7.45-7.40 (m, 3H), 7.35-7.31 (m, 1H), 6.86-6.82 (m, 2H), 6.79-6.76 (m, 2H), 4.24 (t, 2H), 3.16 (t, 2H), 2.43 (s, 3H), 1.46 (s, 6H). MS EI+(m/e) 474.1.

reactant | 2-{4-[2-(2-biphenyl-3-yl-5-methyl-thiazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester | 0.94 mmol, 470 mg | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(SC1C)C=1C=C(C=CC1)C1=CC=CC=C1)=O | C30H31NO4S
reactant | NaOH | 5N | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 2-{4-[2-(2-biphenyl-3-yl-5-methyl-thiazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid | 385 mg, 87% yield | C1(=CC(=CC=C1)C=1SC(=C(N1)CCOC1=CC=C(OC(C(=O)O)(C)C)C=C1)C)C1=CC=CC=C1 | C28H27NO4S
